US05576322
2-Chloro-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline
35 ml of isopropyl alcohol, 900 mg of triethylamine and 1.35 g of piperonylamine were added to 2 g of 2,4-dichloro-6-cyanoquinazoline. The obtained mixture was heated under reflux for 1.5 hours and hot-filtered to recover a precipitate. Thus, 2.4 g of the title compound was obtained.

reactant | isopropyl alcohol | 35 ml | C(C)(C)O | C3H8O
reactant | piperonylamine | 1.35 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | 2,4-dichloro-6-cyanoquinazoline | 2 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C#N | C9H3Cl2N3
solvent | triethylamine | 900 mg | C(C)N(CC)CC | C6H15N
product | 2-Chloro-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 2.4 g | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C17H11ClN4O2
